datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[C:22]([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])[H:14])([H:8])[H:9].[H:13][C:22]([H:23])([H:24])[H:25],14.1170252
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:22]([C:21]([H:24])([H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])[H:11],13.4725
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7](=[S:8])[H:9]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7](=[S:8])[H:9],41.84
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:23][O:38][O:39],199.11656
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:15]([C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24])[H:8])([H:6])[H:7],62.4671
[C:0](#[C:1][H:3])[H:2].[O:4][H:5]>>[C:0]#[C:1][H:3].[H:2][O:4][H:5],213.593
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[H:12])[C:4](=[C:5]([H:16])[H:17])[C:6](=[C:7]([H:18])[H:19])[O:8][O:9][H:20])([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([C:3]([H:13])([H:14])[H:15])([H:12])[O:8][C:6](=[C:7]([H:18])[H:19])[C:4]1=[C:5]([H:16])[H:17])([H:10])[H:11].[O:9][H:20],54.392
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:8]([C:7]([H:15])([H:16])[H:17])([c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])[H:18],39.5806
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:10])([H:8])[H:9],52.551
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:18])[H:19])[H:17])=[C:11]([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:11]([C:8]([C:7](=[C:6]([H:14])[H:15])[H:16])[C:9](=[C:10]([H:18])[H:19])[H:17])([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])[H:3],30.6687
[C:0](=[C:1][N:2]([H:5])[H:6])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](#[C:1][N:2]([H:5])[H:6])[H:4].[H:3][C:7]([H:8])([H:9])[H:10],0.0
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:20])([H:3])[H:4].[C:8]([C:9]([C:10]([H:21])([H:22])[H:23])[c:11]1[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]1[H:28])([H:17])([H:18])[H:19],-6.276
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[O:9]([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[O:9][H:11])[H:4].[H:10],213.231
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:19])[H:5].[C:8]([C:9]([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:20])([H:16])([H:17])[H:18],49.3712
